US05719141
The amine component employed is obtained starting from 2.0 g of 2-(aminomethyl)aniline, dissolved in 30 ml of methylene chloride, by reaction with 1.3 ml of methyl chloroformate in the presence of 3.1 ml of diisopropylethylamine at 5° C. After purification over 80 g of silica gel (mobile phase A), 2-(methoxycarbonylaminomethyl)aniline is obtained: Rf (A)=0.23; Rf (Z)=0.31.

reactant | 2-(aminomethyl)aniline | 2.0 g | NCC1=C(N)C=CC=C1 | C7H10N2
reactant | methyl chloroformate | 1.3 ml | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diisopropylethylamine | 3.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-(methoxycarbonylaminomethyl)aniline | COC(=O)NCC1=C(N)C=CC=C1 | C9H12N2O2
